US03945997
A solution of 2-methyl-3-diazo-1-propene in 250 ml of ether (prepared from 0.2 mole of N-(2-methyl-2-propenyl)ethyl carbamate by the method of J. L. Brewbaker and H. Hart, J. Am. Chem. Soc., 91, 711 (1969) is diluted with 300 ml of methanol and cooled to 0°C. A total of 6.5 g of 9-fluoro-11β ,16α ,17,21-tetrahydroxypregn-4-ene-3,20-dione, 16,17-cycloborate is added in portions until the initial red color fades and nitrogen evolution ceases. The solvent is evaporated in vacuo and the residue dissolved in chloroform and chromatographed on a 100 g - silica gel column. Elution with chloroform and chloroform-ethyl acetate gives TLC homogeneous material which crystallizes from acetone-hexane to give 3.73 g of 9-fluoro-11β ,17,21-trihydroxy-16α-[(2-methyl-2-propenyl)oxy]pregn-4-ene-3,20-dione, melting point 213°-215°C, softening at 198°-200°C.

reactant | 2-methyl-3-diazo-1-propene | CC(=C)C=[N+]=[N-] | C4H6N2
reactant | 9-fluoro-11β ,16α ,17,21-tetrahydroxypregn-4-ene-3,20-dione | 6.5 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)O)=O)C | C21H29FO6
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | methanol | 300 ml | CO | CH4O
product | 9-fluoro-11β ,17,21-trihydroxy-16α-[(2-methyl-2-propenyl)oxy]pregn-4-ene-3,20-dione | 3.73 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCC(=C)C)=O)C | C25H35FO6
